US08497396B2
Alternative Preparation of (S)-2-benzyl-N,N-dimethylaziridine-1-sulfonamide IIa
To a cooled (−10° C.) solution of (S)-2-benzylaziridine (100 g, 0.751 mol) and N,N-dimethylsulfamoyl chloride (84.5 mL, 0.787 mol) in dichloromethane (100 mL) was added N,N-diisopropylethylamine (131 mL, 0.751 mol). The resulting yellow solution was stirred at −10° C. for a minimum of 16 hours. After this period, a 0.5M solution of citric acid (500 mL) was added and the phases were separated. The organic phase was then washed with 1.0 M sodium bicarbonate solution (500 mL). The organic phase was then solvent exchanged into tent-butyl methyl ether (500 mL). The solution was then cooled to 0° C., and heptane (100 mL) was added dropwise over a period of 2 hours. The mixture was then aged for an additional 2 hours at 0° C., and then cooled (−10° C.), to allowed compound IIa to precipitate out as a white, crystalline solid (27.8 g, 77%). Tlc assay: Rf: 0.53 (SiO2; 1:1 heptane:ethyl acetate, KMnO4). 1H NMR (400 MHz, CDCl3): δ 7.20-7.29 (m, 5H), 2.94 (dd, J=14, 5 Hz, 1H), 2.80-2.88 (m, 1H), 2.70 (dd, J=14, 7 Hz, 1H), 2.66 (s, 6H), 2.56 (d, J=7 Hz, 1H), 2.14 (d, J=4 Hz, 1H). 13C NMR (100 MHz, CDCl3): δ 137.4, 129.3, 128.9, 127.2, 40.6, 38.3, 38.1, 33.0.

reactant | (S)-2-benzylaziridine | 0.751 mol, 100 g | C(C1=CC=CC=C1)[C@@H]1NC1 | C9H11N
reactant | N,N-dimethylsulfamoyl chloride | 0.787 mol, 84.5 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | N,N-diisopropylethylamine | 0.751 mol, 131 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | citric acid | 500 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-2-benzyl-N,N-dimethylaziridine-1-sulfonamide | C(C1=CC=CC=C1)C1[N@](C1)S(=O)(=O)N(C)C | C11H16N2O2S
